US07282501B2
Step A: 3-{2-Bromomethyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenyl}propionic acid tert-butyl ester
A 100 mL round bottomed flask was charged with 3-{2-hydroxymethyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenyl}propionic acid tert-butyl ester (1.0 g, 2.29 mmol), anhydrous THF (25 mL), and then triphenylphosphine (1.20 g, 4.57 mmol) and CBr4 (1.52 g, 4.57 mmol). The yellow mixture was stirred at ambient temperature under a nitrogen atmosphere for 1 h and was poured into EtOAc (100 mL). The organic layer was washed with brine, dried (Na2SO4), and concentrated. The crude product was purified using radial chromatography (EtOAc:hexanes 15:85 to 25:75) to give a colorless oil (0.95 g, 83%). MS (ES) m/e 501 (M+1).

reactant | 3-{2-hydroxymethyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenyl}propionic acid tert-butyl ester | 2.29 mmol, 1.0 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CO)=O | C26H31NO5
reactant | THF | 25 mL | C1CCOC1 | C4H8O
reactant | triphenylphosphine | 4.57 mmol, 1.20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CBr4 | 4.57 mmol, 1.52 g | C(Br)(Br)(Br)Br | CBr4
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 3-{2-Bromomethyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenyl}propionic acid tert-butyl ester | 0.95 g, 83% | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CBr)=O | C26H30BrNO4
